US05432291
43.2 g (0.424 mol) of acetic anhydride were cooled to 10° C. A solution of 28.2 g (0.2 mol) of benzenephosphonous acid in 40 ml acetic acid were then added dropwise at 15° C., with stirring and cooling. After this, 30.2 g (0.2 mol) of N-hydroxymethylbenzamide were added in portions in the course of 10 minutes at 15° C., with cooling. After this, the cooling was removed, during which process the internal temperature rose to 35° C. After this, the mixture was refluxed for 3 hours and subsequently cooled. 175 ml of water were then added; during this process, the temperature rose to 35° C. The mixture was refluxed again, and finally cooled again, with stirring. After crystallisation, a total of 40 g (73% of theory) of benzoylaminomethylphenylphosphinic acid of a melting point of 158°-160° C. were obtained. CHNP analysis revealed:

reactant | acetic anhydride | 0.424 mol, 43.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | benzenephosphonous acid | 0.2 mol, 28.2 g | C1(=CC=CC=C1)P(O)O | C6H7O2P
reactant | N-hydroxymethylbenzamide | 0.2 mol, 30.2 g | OCNC(C1=CC=CC=C1)=O | C8H9NO2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | benzoylaminomethylphenylphosphinic acid | 40 g, 73% | C(C1=CC=CC=C1)(=O)NCP(O)(=O)C1=CC=CC=C1 | C14H14NO3P
